* R6-B: matched-ratio isolated transfer into frozen native paper-QB.
.include jjmit.cir
.include bvm_cell.cir
.include bq_cell_paper.cir

XBVM1 WL1 BL1 SE1 SL1 BVM

R_PRI SL1 N_PRI 12.0
L_PRI N_PRI 0 0.20p
L_SEC QB_IN 0 1.0p
KISO L_PRI L_SEC 0.70710678

I_IBIAS 0 IBIAS pwl(0p 0 1p 90U 2p 90U 170p 90U)
XBQ QB_IN OUT_Q IBIAS BQ_PAPER
R_LOAD_Q OUT_Q 0 10

* logical1 write only; READ=0 control
I_WL1 0 WL1 pwl(0p 0 10p 0 11p +100U 20p +100U 21p 0 170p 0)
I_BL1 0 BL1 pwl(0p 0 10p 0 11p +100U 20p +100U 21p 0 170p 0)
I_SE1 0 SE1 pwl(0p 0 170p 0)

.tran 0.0125p 170p
.print P(BJs|XBQ) V(BJs|XBQ) I(BJs|XBQ) P(BJL1|XBQ) V(BJL1|XBQ) I(BJL1|XBQ) P(BJL2|XBQ) V(BJL2|XBQ) I(BJL2|XBQ)
.print I(Lin|XBQ) I(L1|XBQ) I(L2|XBQ) I(L0|XBQ) I(RB|XBQ) I(RJ1|XBQ) I(RJ2|XBQ)
.print I(R_PRI) I(L_PRI) V(L_PRI) I(L_SEC) V(L_SEC) V(QB_IN)
.print V(SL1) V(N6|XBVM1) V(OUT_Q) I(L_SL|XBVM1) I(L_PSL|XBVM1)
.print P(B_JM1|XBVM1) V(B_JM1|XBVM1) P(B_JM2|XBVM1) V(B_JM2|XBVM1)
.print P(B_JS1|XBVM1) V(B_JS1|XBVM1) P(B_JS2|XBVM1) V(B_JS2|XBVM1)
.print I(I_WL1) I(I_BL1) I(I_SE1)
.end
